US04987141
2-[N-methoxy-N-methylsulphamoyl]-6-(methanesulphonyloxy)pyridine.
A solution of 6-fluoropyridine-2-sulphonylchloride (1.96 g) and methoxylamine hydrochloride (1.96 g) in chloroform (40 cm3) was cooled to -78° C. under an atmosphere of nitrogen and a solution of triethylamine (2.03 g) in chloroform (10 cm3) was added with stirring. The reaction mixture was added to water and the product extracted into chloroform. The combined organic layers were dried over magnesium sulphate, filtered and evaporated to give the title product.

reactant | 6-fluoropyridine-2-sulphonylchloride | 1.96 g | FC1=CC=CC(=N1)S(=O)(=O)Cl | C5H3ClFNO2S
reactant | methoxylamine hydrochloride | 1.96 g | Cl.O(C)N
reactant | triethylamine | 2.03 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | 40 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 2-[N-methoxy-N-methylsulphamoyl]-6-(methanesulphonyloxy)pyridine | CON(S(=O)(=O)C1=NC(=CC=C1)OS(=O)(=O)C)C | C8H12N2O6S2
